### PR TITLE
feat: add `BitVec.(negOverflow, negOverflow_eq)`

### PR DESCRIPTION
**Pull request by luisacicolini**
This PR adds SMT-LIB operators to detect overflow `BitVec.negOverflow`, according to the [SMTLIB standard](https://github.com/SMT-LIB/SMT-LIB-2/blob/2.7/Theories/FixedSizeBitVectors.smt2), and the theorem proving equivalence of such definition with the `BitVec` library functions (`negOverflow_eq`). 

Co-authored by @bollu and @alexkeizer

### CODE REVIEW

**Comment by luisacicolini** [comment]
changelog-library

File: src/Init/Data/BitVec/Bitblast.lean [hunk 1]
```diff
@@ -1299,6 +1299,29 @@ theorem saddOverflow_eq {w : Nat} (x y : BitVec w) :
     simp
     omega
 
+theorem negOverflow_eq {w : Nat} (x : BitVec w) :
+    (negOverflow x) = ((0 < w) && (x = intMin w)) := by
+  simp only [negOverflow]
```
Comment (alexkeizer) [inline src/Init/Data/BitVec/Bitblast.lean:1304]:
```suggestion
theorem negOverflow_eq {w : Nat} (x : BitVec w) :
    negOverflow x = (decide (0 < w) && x == intMin w) := by
  simp only [negOverflow]
```
The parens on the lhs should be superfluous.
On the rhs, I prefer adding explicit `decide`s to emphasize where the `Bool`/`Prop` boundary happens. 
Also, I find `_ == _` nicer than `decide (_ = _)`, but that's largely up to taste.

I do wonder, could we simply use the rhs as the definition of `negOverflow`? I'd find it a nicer description, as it explicitly calls out that it's only for `intMin`, when the width is non-zero, rather than relying on `Int` arithmetic and an unnamed constant.

Comment (luisacicolini) [reply src/Init/Data/BitVec/Bitblast.lean:1304]: thank you @alexkeizer for the review! I will indeed correct the bool/prop thing. 

The reason why I did not use `intMin` in the initial definition of `negOverflow` is to stick to the definition provided by the [SMTLIB standard](https://github.com/SMT-LIB/SMT-LIB-2/blob/2.7/Theories/FixedSizeBitVectors.smt2).

**Comment by alexkeizer** [comment]
It might be nice to add some simple theorems about `neg` under the assumption that overflow happens / does not happen.

For example:
```lean
theorem neg_eq_of_negOverflow (x : BitVec w) (h : x.negOverflow) : -x = intMin w

theorem neg_neg_eq_of_not_negOverflow (x : BitVec w) (h : \lnot x.negOverflow) : --x = x
```

(Note: I wrote these examples from the top of my head. I believe these are the right statements, but do double check if some tweaking of edge-cases is required)

**Comment by luisacicolini** [comment]
thank you @alexkeizer. I think that makes a lot of sense and would be happy to write those theorems - potentially in a subsequent PR, to keep this one small.

File: tests/lean/run/bv_decide_rewriter.lean [hunk 2]
```diff
@@ -621,6 +621,8 @@ example {x y : BitVec 8} : (-x) <<< y = -(x <<< y) := by bv_normalize
 
 example {x : BitVec 16} : (x = BitVec.allOnes 16) → (BitVec.uaddOverflow x x) := by bv_decide
 
+example {x : BitVec 64} : (x = BitVec.intMin 64) → (BitVec.negOverflow x) := by bv_decide
```
Comment (bollu) [inline tests/lean/run/bv_decide_rewriter.lean:624]:
```suggestion
example {x : BitVec 64} : (x = BitVec.intMin 64) ↔ (BitVec.negOverflow x) := by bv_decide
```

The example should be an `iff`, since this is the only case it overflows!

**Review by bollu — APPROVED** [review]
LGTM overall, modulo the strengthening of the testcase.

**Comment by luisacicolini** [comment]
awaiting-review

**Comment by tobiasgrosser** [comment]
Now CI fails with:

```bash
[100%] Built target leancpp_1
[100%] Built target leancpp
[    ] Building Init/Prelude.lean
[    ] Building Init/Coe.lean
[    ] Building Lean/Runtime.lean
[    ] Building ../build/stage1/lib/temp/Init/Prelude.c
make[7]: *** [/home/runner/work/lean4/lean4/build/stage1/bin/../share/lean/lean.mk:79: ../build/stage1/lib/lean/Init/Coe.olean] Segmentation fault
make[7]: *** Waiting for unfinished jobs....
make[6]: *** [/home/runner/work/lean4/lean4/build/s
```
